US04442115
Methyl 2-hydroxy-5-methyl-3-nitrobenzoate (5.0 g) was dissolved in a solution of dimethylamine in ethanol (33% w/v; 50 ml) and the solution was heated at 100° C. in a sealed pressure vessel for 20 hours. The solvent was removed in vacuo and the residue was triturated with hydrochloric acid (2 N; 50 ml), and washed with water. Recrystallisation from methanol gave N,N-dimethyl-2-hydroxy-5-methyl-3-nitrobenzamide (3.0 g), m.p. 160°-162° C.

reactant | Methyl 2-hydroxy-5-methyl-3-nitrobenzoate | 5.0 g | OC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])C | C9H9NO5
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N,N-dimethyl-2-hydroxy-5-methyl-3-nitrobenzamide | 3.0 g | CN(C(C1=C(C(=CC(=C1)C)[N+](=O)[O-])O)=O)C | C10H12N2O4
